US04254127
A mixture of 30 parts of ethyl 4-[2-(3-methoxyphenyl)-1,3-dioxolan-2-ylmethyl]-1-piperidinecarboxylate, 225 parts of a hydrobromic acid solution 48% in water and a small amount of 2-propanol is stirred and refluxed for 2 hours. The reaction mixture is cooled. The precipitated product is filtered off and dried, yielding 9.5 parts (30%) of 1-(3-methoxyphenyl)-2-(4-piperidinyl)ethanone hydrobromide.

reactant | ethyl 4-[2-(3-methoxyphenyl)-1,3-dioxolan-2-ylmethyl]-1-piperidinecarboxylate | COC=1C=C(C=CC1)C1(OCCO1)CC1CCN(CC1)C(=O)OCC | C19H27NO5
reactant | hydrobromic acid | Br | BrH
reactant | 2-propanol | CC(C)O | C3H8O
solvent | water | O | H2O
product | 1-(3-methoxyphenyl)-2-(4-piperidinyl)ethanone hydrobromide | 30% | Br.COC=1C=C(C=CC1)C(CC1CCNCC1)=O | InChI=1S/C14H19NO2.BrH/c1-17-13-4-2-3-12(10-13)14(16)9-11-5-7-15-8-6-11;/h2-4,10-11,15H,5-9H2,1H3;1H
